US07799775B2
A mixture of 4.00 g of 7-methoxy-1-piperazin-1-ylisoquinoline and 40 ml of 47% aqueous hydrobromic acid was heated under reflux for 2 hours. After cooling, the residue was rendered alkaline with 5N aqueous sodium hydroxide solution, followed by addition of 30 ml of 1,4-dioxane and 3.94 g of di-tert-butyldicarbonate and an hour's stirring at room temperature. The solution was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (methanol:chloroform=1:19) to provide 4.63 g (85%) of 1-(4-tert-butoxycarbonylpiperazin-1-yl)-7-hydroxyisoquinoline.

reactant | 7-methoxy-1-piperazin-1-ylisoquinoline | 4.00 g | COC1=CC=C2C=CN=C(C2=C1)N1CCNCC1 | C14H17N3O
reactant | hydrobromic acid | 40 ml | Br | BrH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 3.94 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 1-(4-tert-butoxycarbonylpiperazin-1-yl)-7-hydroxyisoquinoline | 4.63 g, 85% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)O | C18H23N3O3
